US04558048
(A) 2-(1-phenylindol-3-yl)-2-thioisourea hydroiodide
N-Phenylindole (28.95 g; 0.15M) and thiourea (11.4 g; 0.15M) were dissolved in a mixture of methanol (140 ml) and ethanol (100 ml) by rapid stirring at 20°. To this solution was added in four portions a solution of potassium iodide (52.5 g; 0.3M) and iodine (38.1 g; 0.15M) in water (60 ml) over 10 minutes. The solution was then stirred at 20° for 17 hours. The resulting heavy yellow precipitate of the crude product was filtered off, washed successively with isopropanol (3×200 ml), water (3×200 ml), isopropanol (3×200 ml) and ether (2×200 ml), and then dried at 60° to give the title compound, weight 46.2 g (78.0% yield). An analytical sample was prepared by crystallisation from a 1:1 mixture of methanol and ethanol. This gave colourless rhombohedral crystals of the title compound, m.p. 264°-6°.

reactant | N-Phenylindole | 0.15M, 28.95 g | C1(=CC=CC=C1)N1C=CC2=CC=CC=C12 | C14H11N
reactant | thiourea | 0.15M, 11.4 g | NC(=S)N | CH4N2S
reactant | potassium iodide | 0.3M, 52.5 g | [I-].[K+]
reactant | iodine | 0.15M, 38.1 g | II | I2
solvent | methanol | 140 ml | CO | CH4O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | 2-(1-phenylindol-3-yl)-2-thioisourea hydroiodide | 78.0% yield | I.C1(=CC=CC=C1)N1C=C(C2=CC=CC=C12)SC(N)=N | InChI=1S/C15H13N3S.HI/c16-15(17)19-14-10-18(11-6-2-1-3-7-11)13-9-5-4-8-12(13)14;/h1-10H,(H3,16,17);1H
